US06323174B1
4 mg (0.016 mmol) of (η6-benzene)ruthenium (II) dichloride, 15 mg (0.058 mmol) of silver triflate and 11.2 mg (0.052 mmol) of N-2-aminoethyl-p-toluenesulfonamide were placed in a sealed tube, which was then charged with 2 ml (20 mmol) of isoprene, 2 ml (22 mmol) of vinyl acetate and 2 ml of methanol. The mixture was heated with stirring at 100° C. for 6 hours in an argon atmosphere. The reaction mixture was poured into water and the organic layer was concentrated to obtain 0.17 g (yield: 6% based on isoprene) of a co-dimer (4-methylhexa-1,5-dien-1-yl acetate) (Purity: 75%, regioisomer: 17%, cyclic dimer of dienes: 8%).

reactant | isoprene | 20 mmol, 2 ml | C=CC(C)=C | C5H8
reactant | vinyl acetate | 22 mmol, 2 ml | C(C)(=O)OC=C | C4H6O2
reactant | methanol | 2 ml | CO | CH4O
catalyst | silver triflate | 0.058 mmol, 15 mg | [O-]S(=O)(=O)C(F)(F)F.[Ag+]
solvent | water | O | H2O
product | 4-methylhexa-1,5-dien-1-yl acetate | yield: 6% | C(C)(=O)OC=CCC(C=C)C | C9H14O2
